US05116971
2.4. Ethyl 4-bromoacetamido-3-(2-chlorobenzoyl)-phenyl-acetate
20.9 g (0.66 mol) of ethyl 4-amino-3-(2-chlorobenzoyl)-phenylacetate are dissolved in 170 ml of anhydrous dioxane. First 5.2 ml of absolute pyridine are added and then 13.3 g (0.066 mol) of bromoacetylbromide are added dropwise at room temperature and the mixture is stirred for 24 hours. The suspension is filtered through Kieselgur. The Kieselgur is washed with ether, and the combined filtrates are concentrated in vacuo. The resulting residue is induced to crystallise by addition of ethanol.

reactant | ethyl 4-amino-3-(2-chlorobenzoyl)-phenylacetate | 0.66 mol, 20.9 g | NC1=C(C=C(C=C1)CC(=O)OCC)C(C1=C(C=CC=C1)Cl)=O | C17H16ClNO3
reactant | pyridine | 5.2 ml | N1=CC=CC=C1 | C5H5N
reactant | bromoacetylbromide | 0.066 mol, 13.3 g | BrCC(=O)Br | C2H2Br2O
solvent | dioxane | 170 ml | O1CCOCC1 | C4H8O2
product | Ethyl 4-bromoacetamido-3-(2-chlorobenzoyl)-phenyl-acetate | BrCC(=O)NC1=C(C=C(C=C1)CC(=O)OCC)C(C1=C(C=CC=C1)Cl)=O | C19H17BrClNO4
